US04728663
6-Chloro-N-[3-(1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine
A mixture of 1 g of 6-chloro-benz[cd]indole-2-thiol, 540 mg of 3-(1H-imidazol-1-yl)propanamine, 1.26 g of mercuric acetate and 100 ml of ethanol was reacted as described in Example 1, giving 1 g of the desired compound, mp 177°-178° C.

reactant | 6-chloro-benz[cd]indole-2-thiol | 1 g | ClC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C11H6ClNS
reactant | 3-(1H-imidazol-1-yl)propanamine | 540 mg | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Chloro-N-[3-(1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine | 1 g | ClC=1C=2C3=C(C(=NC3=CC1)NCCCN1C=NC=C1)C=CC2 | C17H15ClN4
